US07442698B2
N,N-dimethyl-3-(4-aminophenoxy)propylamine
N,N-dimethyl-3-(4-nitrophenoxy)propylamine (4.4 g, 19.6 mmol) was hydrogenated over Pd (10% on C, 0.4 g) in ethanol (ca 50 mL) for 16 h. The catalyst was filtered off and the solvent removed under reduced pressure to afford the title compound as a brown oil. 1H NMR (400 MHz, dmso-d6): 1.95 (2H, t, J 6.5 Hz); 2.25 (6H, s); 2.35-2.45 (2H, m); 3.95 (2H, t, J 6.5 Hz); 4.7 (2H, bs); 6.9 (2H, d, J 8 Hz); 8.1 (2H, d, J 8 Hz); 6.65 (2H, d, J 8 Hz); 6.75 (2H, d, J 8 Hz).

reactant | N,N-dimethyl-3-(4-nitrophenoxy)propylamine | 19.6 mmol, 4.4 g | CN(C)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O3
solvent | ethanol | ca 50 mL | C(C)O | C2H6O
catalyst | Pd | 0.4 g | [Pd] | Pd
product | N,N-dimethyl-3-(4-aminophenoxy)propylamine | CN(C)CCCOC1=CC=C(C=C1)N | C11H18N2O
